US07612211B2
F. 2-[2-(4-cyclopropyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide
A mixture of 5-bromo-2-(4-cyclopropyl-phenoxymethyl)-1H-benzoimidazole (0.030 g, 0.0874 mmol), 2-(tert-butylamino)sulfonylphenylboronic acid (0.029 g, 0.114 mmol), sodium carbonate (0.079 g, 0.524 mmol), and 1,1′-[bis(di-tert-butylphosphino)ferrocene]-palladium dichloride (0.006 g, 0.00874 mmol) in DME (2 mL) and H2O (0.5 mL) was heated at 90° C. for 12 hours. The reaction mixture was concentrated under reduced pressure to provide a residue, which was purified by chromatography (silica, hexanes:EtOAc, 1:1) to afford the product. It was then dissolved in trifluoroacetic acid (3 mL) and heated to 60° C. for 2 hours. The reaction mixture was concentrated and the residue was purified by chromatography (silica, hexanes: EtOAc, 1:2) to afford the title compound as a light brown solid. 1H NMR (400 MHz, CD3OD) δ (ppm): 8.14 (dd, 1H, J=8.0 Hz, J=1.2 Hz), 7.77 (s, 1H), 7.73 (d, 1H, J=9.2 Hz), 7.65 (td, 1H, J=8.2 Hz, J=1.6 Hz), 7.50 (td, 1H, J=8.4 Hz, J=1.6 Hz), 7.51 (dd, 1H, J=8.8 Hz, J=1.2 Hz), 7.41 (dd, 1H, J=6.0 Hz, J=1.2 Hz), 7.08-6.99 (m, 4H), 5.50 (s, 2H), 1.90-1.84 (m, 1H), 0.92-0.90 (m, 2H), 0.62-0.58 (m, 2H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C23H22N3O3S: 420.5 (M+H), Found 420.4.

reactant | 5-bromo-2-(4-cyclopropyl-phenoxymethyl)-1H-benzoimidazole | 0.0874 mmol, 0.030 g | BrC1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C2CC2)C=C1 | C17H15BrN2O
reactant | 2-(tert-butylamino)sulfonylphenylboronic acid | 0.114 mmol, 0.029 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
reactant | sodium carbonate | 0.524 mmol, 0.079 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | H2O | 0.5 mL | O | H2O
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[2-(4-cyclopropyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide | C1(CC1)C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)S(=O)(=O)N)C=C1 | C23H21N3O3S
